US04971982
7.19 g of (-)-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carboxamide were heated at 80° C. in 25 ml of phosphorus oxychloride for 30 minutes. The mixture was then cooled and evaporated. The residue was dissolved in dichloromethane and 2M sodium carbonate solution. The organic phase was separated, dried over sodium sulphate and evaporated to give 6.65 g of (-)-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile which was used without further purification.

reactant | (-)-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carboxamide | 7.19 g | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=C(C=C2)C(=O)N)C | C17H18N2O2
solvent | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (-)-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile | 6.65 g | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=C(C=C2)C#N)C | C17H16N2O
